US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-hydroxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 7-methoxy-1,2,3,4-tetrahydro-isoquinolin-6-ol to provide the title compound as a solid.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 7-methoxy-1,2,3,4-tetrahydro-isoquinolin-6-ol | COC1=C(C=C2CCNCC2=C1)O | C10H13NO2
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-hydroxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CC1=CC(=C(C=C1CC2)O)OC | C17H15ClN4O3
